US06087380
1-Methyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(ethoxycarbonylmethyl)-amide-hydrochloride
Prepared analogously to Example 25d from 1-methyl-2-[N-(4-cyanophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(ethoxycarbonylmethyl)-amide and ethanolic hydrochloric acid, ethanol and ammonium carbonate. Yield: 74% of theory, Rf value: 0.12 (silica gel; dichloromethane/ethanol=4:1) C27H28N6O3 (484.6) ##EQU23##

reactant | 1-methyl-2-[N-(4-cyanophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(ethoxycarbonylmethyl)-amide | C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C#N)C)C=C1)CC(=O)OCC | C27H25N5O3
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | ethanol | C(C)O | C2H6O
product | 1-Methyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(ethoxycarbonylmethyl)-amide-hydrochloride | Yield: 74% | Cl.C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C(N)=N)C)C=C1)CC(=O)OCC | InChI=1S/C27H28N6O3.ClH/c1-3-36-25(34)17-33(21-7-5-4-6-8-21)27(35)19-11-14-23-22(15-19)31-24(32(23)2)16-30-20-12-9-18(10-13-20)26(28)29;/h4-15,30H,3,16-17H2,1-2H3,(H3,28,29);1H
